US06759428B2
385 mg (1.217 mmol) of ethyl (2E)-3-(4-{[(allyloxy)carbonyl]amino}phenyl)-2-azidoprop-2-enoate was dissolved in 25 mL toluene (˜0.05M solution). The mixture was heated to 80° C. for 2 h, cooled, and concentrated. Purification by column chromatography, eluting with 25% ethyl acetate/hexane provided 134 mg of ethyl 6-{[(allyloxy)carbonyl]amino}-1H-indole-2-carboxylate as a yellow solid.

reactant | ethyl (2E)-3-(4-{[(allyloxy)carbonyl]amino}phenyl)-2-azidoprop-2-enoate | 1.217 mmol, 385 mg | C(C=C)OC(=O)NC1=CC=C(C=C1)/C=C(\C(=O)OCC)/N=[N+]=[N-] | C15H16N4O4
solvent | toluene | ˜0.05M, 25 mL | C1(=CC=CC=C1)C | C7H8
product | ethyl 6-{[(allyloxy)carbonyl]amino}-1H-indole-2-carboxylate | 134 mg | C(C=C)OC(=O)NC1=CC=C2C=C(NC2=C1)C(=O)OCC | C15H16N2O4
